US06919329B2
Step 1: Preparation of 1-(3,5-difluorophenyl)-2,5-dimethyl-1H-pyrrole
To the solution of 3,5-difluoroaniline (3.53 g, 26.8 mmol) in toluene/THF (1:1, 60 mL) is added acetonylacetone (3.24 mL, 26.8 mmol) and p-toluenesulfonic acid monohydrate (0.168 g). The reaction mixture is heated at reflux for 3 h, concentrated under reduced pressure, diluted with CH2Cl2 (60 mL), washed with water (3×10 mL) and saline (2×20 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by chromatography on a Biotage Flash 40M 90 g silica gel cartridge eluting with EtOAc/Hexanes (5/95-10/90) affords the title compound, mp 55-56° C.

reactant | 3,5-difluoroaniline | 26.8 mmol, 3.53 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | acetonylacetone | 26.8 mmol, 3.24 mL | C(C(=O)C)CC(C)=O | C6H10O2
reactant | p-toluenesulfonic acid monohydrate | 0.168 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene THF | 60 mL | C1(=CC=CC=C1)C.C1CCOC1
product | 1-(3,5-difluorophenyl)-2,5-dimethyl-1H-pyrrole | FC=1C=C(C=C(C1)F)N1C(=CC=C1C)C | C12H11F2N
